US04294845
A mixture of 12.4 g of 5-chloro-2-hydroxy-α,α-diphenyl-benzene methanol, 150 ml of toluene and 3.2 g of sodium amide was refluxed for 6 hours and was then cooled to room temperature after which 6.8 g of potassium dichloroacetate were added thereto. The mixture was refluxed for another 6 hours and was cooled to room temperature after which 300 ml of water were added thereto. The mixture was slowly acidified with N hydrochloric acid solution and was then made alkaline wiith a saturated sodium bicarbonate solution. The mixture was washed twice with 100 ml of methylene chloride and was then acidified with 2 N hydrochloric acid. The mixture was extracted 3 times with 100 ml of ether and the combined ether extracts were washed twice with 80 ml of water, dried over magnesium sulfate, treated with activated carbon and evaporated to dryness under reduced pressure. The 7 g of residue were crystallized from 300 ml of benzene to obtain 4.6 g of 6-chloro-4,4-diphenyl-[4H]-1,3-benzodioxin-2-carboxylic acid melting at 226° C.

reactant | 5-chloro-2-hydroxy-α,α-diphenyl-benzene methanol | 12.4 g | ClC=1C=CC(=C(C1)C(O)(C1=CC=CC=C1)C1=CC=CC=C1)O | C19H15ClO2
reactant | sodium amide | 3.2 g | [NH2-].[Na+]
reactant | potassium dichloroacetate | 6.8 g | ClC(C(=O)[O-])Cl.[K+]
reactant | hydrochloric acid | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | 300 ml | O | H2O
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 6-chloro-4,4-diphenyl-[4H]-1,3-benzodioxin-2-carboxylic acid | 4.6 g | ClC1=CC2=C(OC(OC2(C2=CC=CC=C2)C2=CC=CC=C2)C(=O)O)C=C1 | C21H15ClO4
